US09102614B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-vinylnaphthalen-2-yl)acetate:
To a suspension of methyltriphenylphosphonium bromide (60 mg, 0.168 mmol) in THF (1 mL) at −78° C. was added dropwise n-BuLi (1.6 M in hexanes, 90 μL), followed after 30 min by a solution of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-formylnaphthalen-2-yl)acetate (12 mg, 0.028 mmol) in THF (1 mL). The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 2 hours. This mixture was added to another mixture, which was made by adding n-BuLi (1.6 M in hexanes, 300 μL) to a suspension of methyltriphenylphosphonium bromide (200 mg, 0.56 mmol) in THF (2 mL) and stirred at −78° C. for 15 min. Then the reaction mixture was allowed to warm to room temperature and stirred at room temperature for 1 h. The reaction mixture was diluted with EtOAc, washed with sat. NH4Cl, and extracted with EtOAc. The organic layers were combined, dried over MgSO4, filtered, concentrated in vacuo and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to provide 7.4 mg of the desired product. 1H-MNR 400 MHz (CDCl3) δ: 7.95 (s, 1H), 7.78 (d, J=4.2 Hz, 1H), 7.57-7.50 (m, 1H), 7.43-7.17 (m, 6H), 5.62 (dd, J=8.1, 2 Hz, 1H), 5.25 (dd, J=5.3, 1.8 Hz, 1H), 5.07 (s, 1H), 4.06-4.02 (m, 2H), 1.10 (t, J=7 Hz, 3H), 0.93 (s, 9H).

reactant | n-BuLi | 1.6 M, 90 μL | [Li]CCCC
reactant | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-formylnaphthalen-2-yl)acetate | 0.028 mmol, 12 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C=O)C1=CC=C(C=C1)Cl | C25H25ClO4
reactant | n-BuLi | 1.6 M, 300 μL | [Li]CCCC
catalyst | methyltriphenylphosphonium bromide | 0.168 mmol, 60 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 0.56 mmol, 200 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-vinylnaphthalen-2-yl)acetate | 7.4 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C=C)C1=CC=C(C=C1)Cl | C26H27ClO3
